US05859007
To a stirring solution of 750 mg (1.64 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 25 mL DMF at 0° C. is added dropwise over 5 min 3.60 mL (1.80 mmol, 1.1 equiv) of a 0.5M solution of KN(TMS)2 in toluene. The resulting solution is stirred 10 min, then a solution of 560 mg (1.80 mmol, 1.1 equiv) of N-BOC-3-bromomethylindolyl (Schollkopf et. al., Liebigs Ann, Chem. 1985, 413) in 2 mL DMF is added. The resulting solution is stirred 16 h at RT and then quenched with 5 mL of H2O. The reaction mixture is then poured into 200 mL of EtOAc and extracted with H2O (2×200 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel flash column chromatography afforded 927 mg of 2-[3-(N-BOC-indol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide. To a stirring solution of 295 mg (0.43 mmol) of 2-[3-(N-BOC-indol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as described above, in 10 mL of DMF at 0° C. is added 690 μL (0.69 mmol, 1.6 equiv) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 10 min, then 53 μL (0.86 mmol, 2.0 equiv) of methyl iodide is added. The reaction mixture is stirred 2 h at RT and then heated to 50° C. for 14 h, then quenched with 1 mL H2O. The reaction mixture is diluted with 40 mL EtOAc and washed with 40 mL H2O. The organic layer is dried (MgSO4) and the solvents removed in vacuo. The crude material is then resubjected to the same conditions as stated above to ensure complete alkylation. The crude material is then dissolved in 10 mL of 4N HCl in dioxane and the reaction mixture is stirred 6 h at RT. The reaction mixture is diluted with 40 mL of EtOAc and extracted with NaHCO3 (1×30 mL) and H2O (1×30 mL). The organic layer is dried (MgSO4) and the solvents removed in vacuo. The resulting crude oil is purified via reverse phase MPLC using a C-18 column and 65% acetonitrile/35% H2O as eluent followed by lyophilization to afford 82 mg of 2-[3-(1H-indol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide as a white amorphous solid 1H NMR (DMSO-d6, 300 MHz) δ7.56-6.84 (m, 18H), 4.83 (m,1H), 4.27 (m, 2H), 3.80 (s, 3H), 2.78 (d, 1H, J=15.1), 2.64 (d, 1H, J=15.0), 1.26 (s, 3H), 0.98 (m, 6H); low resolution MS (FAB)m/e 601 (MH+), 600 (M+).

reactant | 2-[3-(N-BOC-indol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.43 mmol, 295 mg | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C41H42N4O6
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl iodide | 0.86 mmol, 53 μL, 2.0 equiv | CI | CH3I
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-[3-(1H-indol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 82 mg | N1C=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C37H36N4O4
